US04788306
(b) β-hydroxy-α-methylenebenzeneheptanoic acid methyl ester
A mixture of 8.4 g (52 mmol) of 5-phenylpentanal, 8.95 g (104 mmol) of methyl acrylate and 200 mg of 1,4-diazabicyclo[2.2.2]octane is allowed to stand at room temperature for 120 hours.

reactant | 5-phenylpentanal | 52 mmol, 8.4 g | C1(=CC=CC=C1)CCCCC=O | C11H14O
reactant | methyl acrylate | 104 mmol, 8.95 g | C(C=C)(=O)OC | C4H6O2
reactant | 1,4-diazabicyclo[2.2.2]octane | 200 mg | N12CCN(CC1)CC2 | C6H12N2
product | β-hydroxy-α-methylenebenzeneheptanoic acid methyl ester | COC(C(C(CCCCC1=CC=CC=C1)O)=C)=O | C15H20O3
